US08404722B2
under an N2 atmosphere, 4-(4-(3-chlorophenyl)oxazol-2-yl)benzenamine (0.127 g, 0.469 mmol) was dissolved in dichloromethane (4.00 ml, 62.2 mmol). Benzoyl chloride (0.0572 ml, 0.493 mmol) was added followed by pyridine (0.200 ml, 2.47 mmol), and the reaction was allowed to stir at room temperature for 2.5 hours. The reaction was diluted with ethyl acetate and washed with 0.1N N HCl, and 5% NaHCO3. The organic layer was dried (Na2SO4), filtered and concentrated in vacuo. The crude solid was triturated with ethyl acetate/hexanes and the resulting solid was collected by filtration to afford N-(4-(4-(3-chlorophenyl)oxazol-2-yl)phenyl)benzamide (0.112 g, 63.7% yield). ESI m/z=375.1 (M+H+).

reactant | 4-(4-(3-chlorophenyl)oxazol-2-yl)benzenamine | 0.469 mmol, 0.127 g | ClC=1C=C(C=CC1)C=1N=C(OC1)C1=CC=C(C=C1)N | C15H11ClN2O
reactant | dichloromethane | 62.2 mmol, 4.00 ml | ClCCl | CH2Cl2
reactant | Benzoyl chloride | 0.493 mmol, 0.0572 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 2.47 mmol, 0.200 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-(4-(3-chlorophenyl)oxazol-2-yl)phenyl)benzamide | 0.112 g, 63.7% yield | ClC=1C=C(C=CC1)C=1N=C(OC1)C1=CC=C(C=C1)NC(C1=CC=CC=C1)=O | C22H15ClN2O2
